US04731479
N-Sulfamyl-3-chloropropionamidine hydrochloride
To a stirred suspension of 9.61 g. (0.10 mole) of sulfamide in 30 ml (34 g., 0.38 mole) of 3-chloropropionitrile hydrogen chloride gas is introduced, as described in Example 1. After cooling with ice water for one hour the reaction mixture is diluted with 30 ml of dry ethyl ether, the product is filtered off, washed twice with acetone and dried.

reactant | sulfamide | 0.10 mole | S(=O)(=O)(N)N | H4N2O2S
reactant | 3-chloropropionitrile hydrogen chloride | 0.38 mole, 30 ml, 34 g | Cl.ClCCC#N
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
product | N-Sulfamyl-3-chloropropionamidine hydrochloride | Cl.S(N)(=O)(=O)NC(CCCl)=N | InChI=1S/C3H8ClN3O2S.ClH/c4-2-1-3(5)7-10(6,8)9;/h1-2H2,(H2,5,7)(H2,6,8,9);1H
